US07226951B2
2-(3-Bromo-phenyl)-2-methyl-propionic acid ethyl ester (Intermediate 130)
A solution of 2-(3-bromo-phenyl)-2-methyl-propionitrile (prepared as described by Barlaam et al. J. Med. Chem., 1999, 42, 23, 4890–4908 incorporated herein by reference; 1.4 g, 6.24 mmol) was dissolved in ethanol (40 mL), treated with concentrated sulfuric acid (1 mL) and the resulting reaction mixture was refluxed for 36 h. The reaction mixture was cooled to ambient temperature, diluted with water and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to a residue that was subjected to flash column chromatography over silica gel (230–400 mesh) using 5% ethyl acetate in hexane as the eluent to afford the title product as an orange oil (0.77 g, 46%).

reactant | 2-(3-bromo-phenyl)-2-methyl-propionitrile | 6.24 mmol, 1.4 g | BrC=1C=C(C=CC1)C(C#N)(C)C | C10H10BrN
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(3-Bromo-phenyl)-2-methyl-propionic acid ethyl ester | 0.77 g, 46% | C(C)OC(C(C)(C)C1=CC(=CC=C1)Br)=O | C12H15BrO2
